US06187805B1
a) 5-Benzyloxy-3-(2-dimethylamino-ethyl)-1H-indole-1-carboxylic acid tert-butyl ester
Di-tert-butyl dicarbonate (408 mg, 1.9 mmol) was added to a stirred solution of [2-(5-benzyloxy-1H-indol-3-yl)ethyl]dimethylamine (500 mg, 1.7 mmol), triethylamine (473 ml, 3.4 mmol) and 4-(dimethylamino)-pyridine (20 mg, 0.2 mmol) in dry dichloromethane (5 ml) at 0° C. The reaction was allowed to warm slowly to ambient temperature. After 3 hours the mixture was poured into saturated aqueous sodium hydrogen carbonate and extracted with dichloromethane (×3). The combined extracts were dried (Na2SO4), filtered and evaporated. The residue was purified by chromatography on silica gel, eluting with dichloromethane/methanol/aqueous ammonia (80:8:1) to give the title compound (630 mg, 95%) as a thick oil. δH (360 MHz, CDCl3) 1.65 (9H, s), 2.33 (6H, s), 2.58-2.62 (2H, m), 2.79-2.83 (2H, m), 5.12 (2H, s), 6.99 (1H, dd, J=9.0 and 2.5 Hz), 7.06 (1H, d, J=2.5 Hz), 7.29-7.48 (6H, m), 8.0 (1H, br d).

reactant | Di-tert-butyl dicarbonate | 1.9 mmol, 408 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | [2-(5-benzyloxy-1H-indol-3-yl)ethyl]dimethylamine | 1.7 mmol, 500 mg | C(C1=CC=CC=C1)OC=1C=C2C(=CNC2=CC1)CCN(C)C | C19H22N2O
reactant | triethylamine | 3.4 mmol, 473 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
catalyst | 4-(dimethylamino)-pyridine | 0.2 mmol, 20 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 5-Benzyloxy-3-(2-dimethylamino-ethyl)-1H-indole-1-carboxylic acid tert-butyl ester | 630 mg, 95% | C(C)(C)(C)OC(=O)N1C=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)CCN(C)C | C24H30N2O3
